US07834063B2
B. 4-[(Cyclopropylmethyl)(2-{[4-(hydroxymethyl)phenyl]oxy}ethyl)amino]-2-(trifluoromethyl)benzonitrile
To a solution of 4-((cyclopropylmethyl){2-[(4-formylphenyl)oxy]ethyl}amino)-2-(trifluoromethyl)benzonitrile (0.0701 g, 0.181 mmol) in MeOH (1 mL) at 0° C. was added NaBH4 (0.0034 g, 0.090 mmol) in one portion. The mixture was stirred 15 min, quenched by dropwise addition of NH4Cl (sat'd) and poured into water. The whole was extracted with CH2Cl2 (×3), combined organic portions were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by flash chromatography (EtOAc/hexanes), affording 0.0556 g of the title compound as a colorless film: 1H NMR (300 MHz, CDCl3) δ 7.58 (d, J=8.9 Hz, 1H), 7.28 (app. d, J=8.4 Hz, 2H), 7.12 (d, J=2.4 Hz, 1H), 6.91 (dd, J=8.9, 2.5 Hz, 1H), 6.83 (app. d, J=8.5 Hz, 2H), 4.61 (s, 2H), 4.16 (t, J=5.6 Hz, 2H), 3.91 (t, J=5.6 Hz, 2H), 3.40 (d, J=6.3 Hz, 2H), 1.69 (bs, 1H), 1.14-0.99 (m, 1H), 0.69-0.59 (m, 2H), 0.36-0.28 (m, 2H).

reactant | 4-((cyclopropylmethyl){2-[(4-formylphenyl)oxy]ethyl}amino)-2-(trifluoromethyl)benzonitrile | 0.181 mmol, 0.0701 g | C1(CC1)CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCOC1=CC=C(C=C1)C=O | C21H19F3N2O2
reactant | NaBH4 | 0.090 mmol, 0.0034 g | [BH4-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | 4-[(Cyclopropylmethyl)(2-{[4-(hydroxymethyl)phenyl]oxy}ethyl)amino]-2-(trifluoromethyl)benzonitrile | 0.0556 g | C1(CC1)CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCOC1=CC=C(C=C1)CO | C21H21F3N2O2
